US07855292B2
C. (2R,3R)-3-(4-Chloro-phenyl)-3-hydroxy-2-methyl-propionic acid
A solution of (4R)-4-benzyl-3-[(2R,3R)-3-(4-chloro-phenyl)-3-hydroxy-2-methyl-propionyl]-oxazolidin-2-one (1.32 g, 3.53 mmol) in 4:1 THF/water (20 mL) was cooled to 0° C. and treated with 30% aq. H2O2 (1.5 mL, 13.2 mmol) and LiOH (1 M in water, 5.6 mL, 5.6 mmol). The reaction mixture was stirred for 1 h at 0° C., and then a solution of Na2SO3 (1.76 g, 14 mmol) in water (10 mL) was added. The mixture was concentrated at a temperature<30° C. The aqueous layer was extracted with DCM (3×), then was acidified with conc. HCl and extracted with EtOAc (4×). The combined EtOAc layers were dried (Na2SO4) and concentrated to give the crude acid, which was used without further purification (0.76 g, quant.). 1H NMR (500 MHz, CDCl3): 7.36-7.32 (m, 2H), 7.32-7.28 (m, 2H), 5.16 (d, J=3.9, 1H), 2.81 (dq, J=7.2, 3.9, 1H), 1.15 (d, J=7.2, 3H).

reactant | (4R)-4-benzyl-3-[(2R,3R)-3-(4-chloro-phenyl)-3-hydroxy-2-methyl-propionyl]-oxazolidin-2-one | 3.53 mmol, 1.32 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H]([C@@H](O)C1=CC=C(C=C1)Cl)C)=O | C20H20ClNO4
reactant | H2O2 | 13.2 mmol, 1.5 mL | OO | H2O2
reactant | LiOH | 5.6 mmol, 1 M, 5.6 mL | [Li+].[OH-]
reactant | Na2SO3 | 14 mmol, 1.76 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | water | 10 mL | O | H2O
solvent | THF water | 20 mL | C1CCOC1.O
product | (2R,3R)-3-(4-Chloro-phenyl)-3-hydroxy-2-methyl-propionic acid | ClC1=CC=C(C=C1)[C@@H]([C@H](C(=O)O)C)O | C10H11ClO3
